US04166818
N-(3-methyl-1,2,4-oxadiazol-5-yl)-N-[(4-methylphenyl)methyl]cyclopropanecarboxamide
Cyclopropane carboxylic acid chloride (3.45 g, 0.033 mole) was added dropwise to a solution of 5-(4-methylphenyl)methylamino-3-methyl-1,2,4-oxadiazole (6.1 g, 0.03 mole) and triethylamine (3.45 g, 0.035 mole) in dry benzene keeping the temperature below 10° C. After the addition the temperature was allowed to reach room temperature and then refluxed overnight. On cooling the reaction mixture was washed twice with 2 N HCl and twice with a saturated solution of NaHCO3 and dried over MgSO4 and charcoaled. The product was purified by column chromatography--silica gel (110 g) eluting with petroleum ether 40°-60° C. increasing polarity to 10% ether in petroleum ether. The title compound was recrystallised from petroleum ether 60°-80° C. as white needles. m.p. 49.5°-50.5° C.

reactant | Cyclopropane carboxylic acid chloride | 0.033 mole, 3.45 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | 5-(4-methylphenyl)methylamino-3-methyl-1,2,4-oxadiazole | 0.03 mole, 6.1 g | CC1=CC=C(C=C1)CNC1=NC(=NO1)C | C11H13N3O
reactant | triethylamine | 0.035 mole, 3.45 g | C(C)N(CC)CC | C6H15N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(3-methyl-1,2,4-oxadiazol-5-yl)-N-[(4-methylphenyl)methyl]cyclopropanecarboxamide | CC1=NOC(=N1)N(C(=O)C1CC1)CC1=CC=C(C=C1)C | C15H17N3O2
